US08258141B2
Z2: ((R)-1-{2-[4-(Biphenyl-2-ylcarbamoyloxy)-piperidin-1-yl]-acetyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester
{(R)-1-[2-(4-Hydroxy-piperidin-1-yl)-acetyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (Intermediate Z1) (520 mg, 1.6 mmol) and 2-biphenylisocyanate (930 mg, 2.65 mmol) are dissolved in NMP (2 ml) and heated to 70° C. overnight. Purification is carried out by reverse phase column chromatography (Isolute™ C18, 0-100% MeOH in water—0.1% TFA). The fractions containing the product are concentrated in vacuo to remove the acetonitrile and the aqueous is treated with saturated sodium bicarbonate solution. The product is extracted with DCM and the combined organic portions are concentrated in vacuo to afford the title product. [MH+ 523.24].

reactant | {(R)-1-[2-(4-Hydroxy-piperidin-1-yl)-acetyl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 1.6 mmol, 520 mg | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(CN1CCC(CC1)O)=O)=O | C16H29N3O4
reactant | 2-biphenylisocyanate | 2.65 mmol, 930 mg | C1=CC=C(C=C1)C2=CC=CC=C2N=C=O | C13H9NO
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | ((R)-1-{2-[4-(Biphenyl-2-ylcarbamoyloxy)-piperidin-1-yl]-acetyl}-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C(CN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)=O)=O | C29H38N4O5
